US04272536
Under the same conditions as described in sections (D) and (E) of Example 8, N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-chloropropionamide was converted to the phthalimide derivative, the derivative was converted to an amine by 80% hydrazine hydrate and the amine was neutralized by hydrogen chloride gas to obtain viscous N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-aminopropionamide hydrochloride in a yield of 32%.

reactant | N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-chloropropionamide | C12(C3CCC(C(CCC1)C2)C3)NC(C(C)Cl)=O | C14H22ClNO
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | hydrazine hydrate | O.NN
reactant | hydrogen chloride | Cl | ClH
product | N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-aminopropionamide hydrochloride | yield of 32% | Cl.C12(C3CCC(C(CCC1)C2)C3)NC(C(C)N)=O | InChI=1S/C14H24N2O.ClH/c1-9(15)13(17)16-14-6-2-3-11(8-14)10-4-5-12(14)7-10;/h9-12H,2-8,15H2,1H3,(H,16,17);1H
